US07960409B2
Step 6: 7-{2-[4-(1-ethyl-1-hydroxypropyl)-1H-1,2,3-triazol-1-yl]ethyl}-4-phenylquinoline-2-carbonitrile
A mixture of 7-(2-azidoethyl)-4-phenylquinoline-2-carbonitrile (128 mg, 0.43 mmol), 3-ethylpent-1-yn-3-ol (63 mg, 0.56 mmol), copper iodide (58 mg, 0.65 mmol) and diisopropylethylamine (375 μL, 2.2 mmol) in THF (5 mL) was stirred at rt for 6 h. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification on silica gel (eluting with acetone/dichloromethane, 2:8) gave the title compound. MS (+ESI): 394 (M+H)+.

reactant | 7-(2-azidoethyl)-4-phenylquinoline-2-carbonitrile | 0.43 mmol, 128 mg | N(=[N+]=[N-])CCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C18H13N5
reactant | 3-ethylpent-1-yn-3-ol | 0.56 mmol, 63 mg | C(C)C(C#C)(CC)O | C7H12O
reactant | diisopropylethylamine | 2.2 mmol, 375 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.65 mmol, 58 mg | [Cu](I)I
product | 7-{2-[4-(1-ethyl-1-hydroxypropyl)-1H-1,2,3-triazol-1-yl]ethyl}-4-phenylquinoline-2-carbonitrile | C(C)C(CC)(O)C=1N=NN(C1)CCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C25H25N5O
